US07888364B2
3-Amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide (30 mg, 0.072 mmol) was reacted with benzoyl chloride (9 IIl, 0.079 mmol) via procedure V to afford 17 mg of 3-benzamido-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide as a white solid. MS (Q1) 520 (M)+.

reactant | 3-Amino-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide | 0.072 mmol, 30 mg | NC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC1CS(=O)(=O)C | C20H18ClN3O3S
reactant | benzoyl chloride | 0.079 mmol | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
product | 3-benzamido-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide | 17 mg | C(C1=CC=CC=C1)(=O)NC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC1CS(=O)(=O)C | C27H22ClN3O4S
